US07312214B2
Part C. The product from Part B (64 mg, 0.196 mmol) and 1-(4-methoxyphenyl)-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one (0.061 g, 0.196 mmol) were stirred in DMSO (0.3 mL) under N2. K2CO3 (0.067 g, 0.49 mmol, 2.5 eq) was added, followed by the addition of CuI (0.037 g, 0.194 mmol) and 1,10-phenanthroline (0.020 g, 0.108 mmol). The resulting mixture was heated at 120° C. for 3 h. After cooling, it was extracted with EtOAc (2×), washed with H2O and brine, dried over MgSO4, filtered, and concentrated to dryness. The residue was purified by FCC (silica gel, CH2Cl2:EtOAc=1:1, then EtOAc) to give 1-(4-methoxyphenyl)-6-{4-[1-(2-oxo-pyrrolidin-1-yl)-cyclopropyl]phenyl}-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one (45 mg, yield: 45%). 1H NMR (CDCl3) δ 7.46 (d, J=8.8 Hz, 2H), 7.25 (AA′BB′, J=8.6 Hz, 4H), 6.91 (d, J=9.2 Hz, 2H), 4.10 (t, J=6.6 Hz, 2H), 3.81 (s, 3H), 3.38 (t, J=7.2 Hz, 2H), 3.14 (t, J=6.6 Hz, 2H), 2.37 (t, J=7.7 Hz, 2H), 1.98 (q, J=7.7 Hz, 2H), 1.32 (m, 2H), 1.21 (m, 2H) ppm. HRMS C27H26F3N3O4 (M+H)+ 511.1931 calcd for 511.1958.

reactant | 1-(4-methoxyphenyl)-3-(trifluoromethyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one | 0.196 mmol, 0.061 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(NCC2)=O)C(F)(F)F | C14H12F3N3O2
reactant | K2CO3 | 0.49 mmol, 0.067 g, 2.5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenanthroline | 0.108 mmol, 0.020 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMSO | 0.3 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.194 mmol, 0.037 g | [Cu]I
product | 1-(4-methoxyphenyl)-6-{4-[1-(2-oxo-pyrrolidin-1-yl)-cyclopropyl]phenyl}-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 45 mg, yield: 45% | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)C2(CC2)N2C(CCC2)=O)=O)C(F)(F)F | C27H25F3N4O3
